US07423056B2
a.) 3-(4-Bromo-thiophen-2-yl)-acrylic acid methyl ester (Scheme 3)
[Bis-(2,2,2-trifluoro-ethoxy)-phosphoryl]-acetic acid methyl ester (9.25 g, 29.1 mmol) was dissolved in THF (400 ml) and 18-C-6 (13.9 g, 52.4 mmol) was added and the mixture was cooled to −78° C. Next, KHMDS (5.73 g, 28.8 mmol) was added and the reaction mixture was stirred for 30 minutes, after which 4-bromothiophene-2-carboxaldehyde (5.0 g, 26.2 mmol) was added and the reaction was stirred for an additional 3 hours. Saturated NH4Cl (100 ml) was added and the reaction was warmed to 22° C. The mixture was diluted with EtOAc (700 ml) and H2O (400 ml). The organic layer was washed 10% HCl (100 ml), brine (100 ml), and dried (MgSO4). The solvent was evaporated in vacuo and the crude residue was purified by silica-gel chromatography (hexanes:EtOAc-10:1) providing 5.6 g (87%) of the subtitle product.

reactant | [Bis-(2,2,2-trifluoro-ethoxy)-phosphoryl]-acetic acid methyl ester | 29.1 mmol, 9.25 g | COC(CP(=O)(OCC(F)(F)F)OCC(F)(F)F)=O | C7H9F6O5P
reactant | KHMDS | 28.8 mmol, 5.73 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 4-bromothiophene-2-carboxaldehyde | 26.2 mmol, 5.0 g | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | NH4Cl | 100 ml | [NH4+].[Cl-]
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 700 ml | CCOC(=O)C | C4H8O2
solvent | H2O | 400 ml | O | H2O
product | 3-(4-Bromo-thiophen-2-yl)-acrylic acid methyl ester | 5.6 g, 87% | COC(C=CC=1SC=C(C1)Br)=O | C8H7BrO2S
